US06562811B1
To a stirred solution tert-butyl 3-[3-amino-6-(2-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]-1-piperidinecarboxylate (0.075 g, 0.183 mmol) in 1,4-dioxane (3 mL) was added 4N HCl in 1,4-dioxane (3 mL). The mixture was stirred at room temperature for 12 hrs. The resulting solid was collected with filtration to give 2-[3-amino-4-(3-piperidinyl)-1H-pyrazolo[3,4-b]pyridin-6-yl]phenol hydrochloride. (0.062 g, yield; 98%)

reactant | tert-butyl 3-[3-amino-6-(2-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]-1-piperidinecarboxylate | 0.183 mmol, 0.075 g | NC1=NNC2=NC(=CC(=C21)C2CN(CCC2)C(=O)OC(C)(C)C)C2=C(C=CC=C2)O | C22H27N5O3
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-[3-amino-4-(3-piperidinyl)-1H-pyrazolo[3,4-b]pyridin-6-yl]phenol hydrochloride | yield; 98% | Cl.NC1=NNC2=NC(=CC(=C21)C2CNCCC2)C2=C(C=CC=C2)O | InChI=1S/C17H19N5O.ClH/c18-16-15-12(10-4-3-7-19-9-10)8-13(20-17(15)22-21-16)11-5-1-2-6-14(11)23;/h1-2,5-6,8,10,19,23H,3-4,7,9H2,(H3,18,20,21,22);1H
